US05702850
In a three necked flask equipped with a dropping funnel, a thermometer and a reflux condenser, 138 g of p-nitroaniline was dissolved in a mixed solvent consisting of 3000 ml of tetrahydrofuran and 140 ml of pyridine while passing nitrogen gas through the flask. Then, 364 g of eicosanoylchloride placed in the dropping funnel was gradually dropped into the flask over a time span of 20 minutes, while stirring the reaction mixture. After the completion of the dropping, the reaction mixture was further stirred for 2 hours. A solid reaction product was produced. The solid reaction product was collected by filtering, the filtrate was concentrated under a reduced pressure to produce crystals. The crystals were collected and recrystallized from ethyl alcohol. As a result, 355 g of 4'-nitro-n-eicosane anilide was obtained at a yield of 82%.

reactant | p-nitroaniline | 138 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | tetrahydrofuran | 3000 ml | O1CCCC1 | C4H8O
reactant | eicosanoylchloride | 364 g | C(CCCCCCCCCCCCCCCCCCC)(=O)Cl | C20H39ClO
solvent | pyridine | 140 ml | N1=CC=CC=C1 | C5H5N
product | 4'-nitro-n-eicosane anilide | 355 g, yield of 82% | [N+](=O)([O-])C1=CC=C(NC(CCCCCCCCCCCCCCCCCCC)=O)C=C1 | C26H44N2O3
